US07700638B2
5-Cyano-7-(4-hydroxyphenyl)-1-phenylbenzimidazole
This was prepared in a similar manner to 5-cyano-7-(3-hydroxymethylphenyl)-1-phenylbenzimidazole, with 90 h reflux before removal of solvent using nitrogen to give an oily residue. The residue was taken up in acetonitrile (3 ml) and the resulting solid filtered off and dried under reduced pressure to give the desired product (490 mg, 77%) m/z, 312.3 (M+H)+.

reactant | 5-cyano-7-(3-hydroxymethylphenyl)-1-phenylbenzimidazole | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)C1=CC(=CC=C1)CO | C21H15N3O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 5-Cyano-7-(4-hydroxyphenyl)-1-phenylbenzimidazole | 490 mg, 77% | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)C1=CC=C(C=C1)O | C20H13N3O
